US04426530
50.6 g (200 mmols) of the Na salt of 2-hydroxy-4-(4-ethyl-5-methyl-2H-1,2,3-triazol-2-yl)-benzaldehyde, 41.8 g (200 mmols) of ethyl 4-nitrophenylacetate and 2 ml of piperidine are refluxed in 250 ml of ethanol for 4 hours. After the mixture has been cooled, it is neutralised with glacial acetic acid, and the residue is washed with ethanol and water, and dried: 46.3 g (61.5%). Recrystallisation from toluene yields 41.4 g (55%) of 3-(4-nitrophenyl)-7-(4-ethyl-5-methyl-2H-1,2,3-triazol-2-yl)-coumarin in the form of a pale yellow crystalline powder of melting point 278°-279° C.

reactant | 2-hydroxy-4-(4-ethyl-5-methyl-2H-1,2,3-triazol-2-yl)-benzaldehyde | OC1=C(C=O)C=CC(=C1)N1N=C(C(=N1)CC)C | C12H13N3O2
reactant | ethyl 4-nitrophenylacetate | 200 mmols, 41.8 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)OCC | C10H11NO4
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-(4-nitrophenyl)-7-(4-ethyl-5-methyl-2H-1,2,3-triazol-2-yl)-coumarin | 41.4 g, 55% | [N+](=O)([O-])C1=CC=C(C=C1)C=1C(OC2=CC(=CC=C2C1)N1N=C(C(=N1)CC)C)=O | C20H16N4O4
